US05482974
To a solution of 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzonitrile (9.22 g, 44.0 mmol) in toluene (100 mL) cooled in an ice-bath was added diisobutylaluminum hydride (1M in hexane, 48.4 mL, 48.4 mmol) keeping the temperature less than 10° C. The reaction was stirred for 1 h and was poured into a mixture of 10% aqueous acetic acid (100 mL) and ice. The mixture was filtered through Celite, the layers separated and the aqueous layer extracted with ether (2 times). The combined organic layers were washed with saturated sodium bicarbonate, brine, dried (MgSO4) and concentrated to afford 9.07 g (97%) of 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzaldehyde as a yellow oil.

reactant | 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzonitrile | 44.0 mmol, 9.22 g | CC(C)(C)OC1=C(C#N)C(=CC=C1)Cl | C11H12ClNO
reactant | diisobutylaluminum hydride | 48.4 mmol, 1M, 48.4 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzaldehyde | 9.07 g, 97% | CC(C)(C)OC1=C(C=O)C(=CC=C1)Cl | C11H13ClO2
